US09315521B2
To a solution of sodium borohydride (686 mg, 18.1 mmol) in methanol (40 mL) was added a solution of 1-ethyl-1H-pyrazole-5-carbaldehyde (1.5 g, 12.1 mmol) in methanol (10 mL) at 0° C. The mixture was stirred for 2.5 hours at room temperature. The solvent was evaporated, water was added, and the mixture was extracted 3 times with ethyl acetate. The combined organic phases were washed with brine and dried over sodium sulfate. After evaporation of solvent, (1-ethyl-1H-pyrazol-5-yl)methanol was obtained as a colorless oil (1.07 g, 70% yield) and used in the next step without further purification; 1H NMR (400 MHz, DMSO-d6): δ 1.31 (t, J=7.2 Hz, 3H), 4.10 (q, J=7.2 Hz, 2H), 4.49 (d, J=5.5 Hz, 2H), 5.25 (t, J=5.5 Hz, 1H), 6.12 (d, J=1.5 Hz, 1H), 7.31 (d, J=1.5 Hz, 1H).

reactant | sodium borohydride | 18.1 mmol, 686 mg | [BH4-].[Na+]
reactant | 1-ethyl-1H-pyrazole-5-carbaldehyde | 12.1 mmol, 1.5 g | C(C)N1N=CC=C1C=O | C6H8N2O
solvent | methanol | 40 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
product | (1-ethyl-1H-pyrazol-5-yl)methanol | C(C)N1N=CC=C1CO | C6H10N2O
